US04608079
Preparation of 6-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)thieno[2,3-b]pyridine-5-carboxylic acid
6-[(1-Carbamoyl-1,2-dimethylpropyl)carbamoyl]thieno[2,3-b]pyridine-5-carboxylic acid (17.35 g, 0.052 mol) is added to water (225 mL) containing sodium hydroxide (10.35 g, 0.26 mol). The resulting basic solution is heated at 80° C. for two hours and 45 minutes, cooled in an ice-water bath and acidified with 6N H2SO4. The product 6-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)thieno[2,3-b]pyridine-5-carboxylic acid is filtered off, washed with water and air dried yielding 1.54 g, 70.3%, mp 221°-223° C.

reactant | 6-[(1-Carbamoyl-1,2-dimethylpropyl)carbamoyl]thieno[2,3-b]pyridine-5-carboxylic acid | 0.052 mol, 17.35 g | C(N)(=O)C(C(C)C)(C)NC(=O)C1=C(C=C2C(=N1)SC=C2)C(=O)O | C15H17N3O4S
reactant | sodium hydroxide | 0.26 mol, 10.35 g | [OH-].[Na+]
reactant | H2SO4 | 6N | OS(=O)(=O)O | H2O4S
solvent | water | 225 mL | O | H2O
product | 6-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)thieno[2,3-b]pyridine-5-carboxylic acid | C(C)(C)C1(N=C(NC1=O)C1=C(C=C2C(=N1)SC=C2)C(=O)O)C | C15H15N3O3S
